US09328118B2
Triethylamine (2.7 mL) was added to a suspension of 9-methyl-6-{6-[2-(piperidin-4-yl)ethoxy]-5-(trifluoromethyl)pyridin-3-yl}-9H-purine-2-carbonitrile monohydrochloride (3.0 g) in dichloroethane (60 mL) at room temperature, and the mixture was stirred at the same temperature for 20 minutes. After the reaction mixture was ice-cooled, acetic acid (1.8 mL), sodium triacetoxyborohydride (2.7 g) were added thereto, and a solution of acetaldehyde (1.1 mL) in dichloroethane (5 mL) was added thereto. The mixture was stirred for 1 hour under ice-cooling. After a saturated aqueous NaHCO3 solution was added to the reaction mixture, extraction thereof was performed using CHCl3, and the extract was washed with saturated brine. The organic layer was dried over Na2SO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was suspended in EtOH (80 mL), and the suspension was dissolved by stirring for 30 minutes while heating to reflux. The mixture was cooled to room temperature, and the precipitate was collected by filtration, whereby 6-{6-[2-(1-ethylpiperidin-4-yl)ethoxy]-5-(trifluoromethyl)pyridin-3-yl}-9-methyl-9H-purine-2-carbonitrile (1.8 g) was obtained as a crystal (heat absorption peak temperature obtained by a TG/DTA analysis: near 191° C.).

reactant | 9-methyl-6-{6-[2-(piperidin-4-yl)ethoxy]-5-(trifluoromethyl)pyridin-3-yl}-9H-purine-2-carbonitrile monohydrochloride | 3.0 g | Cl.CN1C2=NC(=NC(=C2N=C1)C=1C=NC(=C(C1)C(F)(F)F)OCCC1CCNCC1)C#N
reactant | sodium triacetoxyborohydride | 2.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetaldehyde | 1.1 mL | C(C)=O | C2H4O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloroethane | 60 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 1.8 mL | C(C)(=O)O | C2H4O2
solvent | Triethylamine | 2.7 mL | C(C)N(CC)CC | C6H15N
product | 6-{6-[2-(1-ethylpiperidin-4-yl)ethoxy]-5-(trifluoromethyl)pyridin-3-yl}-9-methyl-9H-purine-2-carbonitrile | 1.8 g | C(C)N1CCC(CC1)CCOC1=C(C=C(C=N1)C1=C2N=CN(C2=NC(=N1)C#N)C)C(F)(F)F | C22H24F3N7O
